US03984467
Following a procedure similar to that described in Example 42 but using 1.86 g. sodium in 250 ml. dry acetone, 13.4 g. heptanamidine hydrochloride, and 19.2 g. 2-chloro-5-(trifluoromethyl)phenyl isothiocyanate [prepared from 2-chloro-5-(trifluoromethyl)aniline] in 70 ml. acetone there was obtained 1-[2-chloro-5-(trifluoromethyl)phenyl]-3-(heptanimidoyl)-2-thiourea, m.p. 88°-90°C. (from benzene-n-hexane); hydrochloride (10.3 g.), m.p. 160°-161°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 2-chloro-5-(trifluoromethyl)phenyl isothiocyanate | ClC1=C(C=C(C=C1)C(F)(F)F)N=C=S | C8H3ClF3NS
solvent | benzene n-hexane | C1=CC=CC=C1.CCCCCC
product | 1-[2-chloro-5-(trifluoromethyl)phenyl]-3-(heptanimidoyl)-2-thiourea | ClC1=C(C=C(C=C1)C(F)(F)F)NC(=S)NC(CCCCCC)=N | C15H19ClF3N3S
